US07888386B2
3-[(2-Methoxyphenoxy)phenylmethyl]pyrrolidine
3-[(2-Methoxyphenoxy)phenylmethyl]pyrrolidine-1-carboxylic acid t-butyl ester was dissolved in a solution of HCl in EtOH (1.25M, 8 mL) and stirred at room temperature for 18 hours, and then evaporated to dryness. The residue was purified by reverse phase preparative HPLC to afford the TFA salt of the RS/SR mixture of enantiomers of the title compound as a TFA salt (90 mg, 95% purity). MS m/z: [M+H]+ calcd for C18H21NO2, 284.16. Found 284.4. 1H NMR (CD3OD, 400 MHz) δ (ppm): 7.40-7.35 (m, 4H), 7.32-7.28 (m, 1H), 7.00-6.98 (m, 1H), 6.92-6.88 (m, 1H), 6.71-6.65 (m, 2H), 5.32 (d, J=5.2, 1H), 3.90 (s, 3H), 3.62-3.55 (m, 1H), 3.36-3.30 (obscure, 3H, overlap with solvent), 2.97-2.92 (m, 1H), 2.28-2.21 (m, 1H), 2.13-2.07 (m, 1H).

reactant | 3-[(2-Methoxyphenoxy)phenylmethyl]pyrrolidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C(C1=CC=CC=C1)OC1=C(C=CC=C1)OC | C23H29NO4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 90 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | HCl | Cl | ClH
solvent | EtOH | 1.25M, 8 mL | CCO | C2H6O
product | 3-[(2-Methoxyphenoxy)phenylmethyl]pyrrolidine | COC1=C(OC(C2CNCC2)C2=CC=CC=C2)C=CC=C1 | C18H21NO2
